US08865712B2
i) (R)-2-[(RS)-2-(2-Bromo-5-fluoro-pyridin-4-yl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionamide
A solution of (R)-2-[(RS)-2-(2-Bromo-5-fluoro-pyridin-4-yl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionic acid ethyl ester (920 mg, 1.527 mmol) in 7N NH3/MeOH (11 ml) was stirred in a sealed glass vial at 55° C. for 44 h. The reaction mixture was evaporated to dryness to leave a yellow solid that was used for the next step without further purification (diastereomer mixture). RtH4=1.03 min; ESIMS: 573, 575 [(M+H)+]; 1H NMR (400 MHz, CDCl3): b 8.00 (m, 1H), 7.97-7.91 (m, 1H), 7.80-7.63 (m, 3H), 7.55 (m, 1H), 6.63 (m, 1H), 6.41 (m, 1H), 5.74 (m, 1H), 4.15 (m, 1H), 3.97 (m, 1H), 1.84 (2s, 3H), 1.69 (2s, 3H).

reactant | (R)-2-[(RS)-2-(2-Bromo-5-fluoro-pyridin-4-yl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionic acid ethyl ester | 1.527 mmol, 920 mg | C(C)OC([C@@](C(F)(F)F)(C)OCC(C)(NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1=CC(=NC=C1F)Br)=O | C20H20BrF4N3O7S
reactant | NH3 MeOH | 7N, 11 ml | N.CO
product | (R)-2-[(RS)-2-(2-Bromo-5-fluoro-pyridin-4-yl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionamide | BrC1=NC=C(C(=C1)C(CO[C@](C(=O)N)(C(F)(F)F)C)(C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])F | C18H17BrF4N4O6S
